US05416211
To 3.65 g (17.7 mmol) of 4-(4-carbomethoxyphenyl)butanal and 3.43 g (21.2 mmol) of 1,1,1,3,3,3-hexamethyldisilazane in 177 ml of methylene chloride in a nitrogen atmosphere was added 3.89 g (19.5 mmol) trimethylsilyl iodide at -15° C. over 2 minutes. The mixture was stirred for 10 minutes then allowed to come to room temperature. After 2 hours, the excess reagent was quenched by addition of 100 ml water. The layers were separated and the organic phase dried over sodium sulfate. The solvent was removed by vacuum concentration to give 5.0 g of methyl 4-(4-trimethylsilyloxy-3-butenyl)benzoate in a yield of 100 percent. Thin Layer Chromatography (TLC) analysis (silica; hexane-ethyl acetate 3:2) indicated that the above product was substantially pure, b.p. 170° C. @ 0.12 torr. 1H NMR (CDCl3) δ0.15 (s, 9H), 2.41 (q, J =7.2 Hz, 2H), 2.69 (m, 2H), 3.89 (s, 3H), 4.47 (q, J=7.2 Hz, 1H), 6.15 (m, 1H), 7.25 (d, J=8.2 Hz, 2H), 7.93 (d, J=8.2 Hz, 2H); 13C NMR (CDCl3) δ-0.60, 25.0, 35.9, 51.8, 109.8, 128.4, 128.5, 129.6, 138.6, 148.0, 167.1; FDMS 279 (90), 278 (M+, 100%) 280, 251, 226; An analytical sample was obtained by flash chromatography (silica; hexane-ethyl acetate 3:2). Anal. for C15H22O3Si, Calcd: C, 64.71; H, 7.96; Found: C, 64.90; H, 8.05.

reactant | 4-(4-carbomethoxyphenyl)butanal | 17.7 mmol, 3.65 g | C(=O)(OC)C1=CC=C(C=C1)CCCC=O | C12H14O3
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 21.2 mmol, 3.43 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylsilyl iodide | 19.5 mmol, 3.89 g | C[Si](C)(C)I | C3H9ISi
solvent | methylene chloride | 177 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(4-trimethylsilyloxy-3-butenyl)benzoate | 5.0 g, yield of 100 percent | C[Si](OC=CCCC1=CC=C(C(=O)OC)C=C1)(C)C | C15H22O3Si
